US08076329B2
A A mixture of 2-chloro-4-(4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)pyridine (345 mg), sodium hydroxide (288 mg) and methanol (1.55 mL) is heated overnight at a temperature close to 170° C. in a sealed tube. The mixture is cooled to a temperature close to 0° C. and neutralized with a cold concentrated aqueous hydrochloric solution. Methanol (1.3 mL) is added and the precipitate separated by filtration. The filtrate is concentrated under reduced pressure and purified by chromatography over silica gel (eluent dichloromethane/methanol from 100/0 to 80/20). Fraction containing the expected product are pooled and concentrated under reduced pressure. The crude base is dissolved in ethanol; oxalic acid (118 mg) is added followed by diethyl ether. The precipitate that appears is separated by filtration, washed with ethanol and dried under reduced pressure to give 110 mg of 2-hydroxy-4-(4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)pyridine, oxalate as a white powder melting at 110° C.

reactant | 2-chloro-4-(4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)pyridine | 345 mg | ClC1=NC=CC(=C1)C1=CC=C(C=C1)OCCCN1C[C@H](CCC1)C | C20H25ClN2O
reactant | sodium hydroxide | 288 mg | [OH-].[Na+]
solvent | Methanol | 1.3 mL | CO | CH4O
solvent | methanol | 1.55 mL | CO | CH4O
product | 2-hydroxy-4-(4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)pyridine | 110 mg | OC1=NC=CC(=C1)C1=CC=C(C=C1)OCCCN1C[C@H](CCC1)C | C20H26N2O2
